US09024027B2
To a mixture of 2,3-dioxoindoline-5-sulfonyl chloride (0.800 g, 3.26 mmol) in dry THF (10 ml), cooled at 0° C. under nitrogen, DIPEA (1.138 ml, 6.51 mmol) and dimethylamine 2M in THF (2.117 ml, 4.23 mmol) were added, and the mixture was allowed to stir at room temperature for 2.5 hours. The mixture was partitioned between ethyl acetate and water, and the aqueous layer was extracted three times with ethyl acetate. The combined organic layers were dried over sodium sulfate and evaporated to dryness to give N,N-dimethyl-2,3-dioxoindoline-5-sulfonamide (0.639 g, 2.51 mmol, 77% yield). MS/ESI+ 254.9 [MH]+.

reactant | 2,3-dioxoindoline-5-sulfonyl chloride | 3.26 mmol, 0.800 g | O=C1NC2=CC=C(C=C2C1=O)S(=O)(=O)Cl | C8H4ClNO4S
reactant | DIPEA | 6.51 mmol, 1.138 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylamine | 2M | CNC | C2H7N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 4.23 mmol, 2.117 ml | C1CCOC1 | C4H8O
product | N,N-dimethyl-2,3-dioxoindoline-5-sulfonamide | 2.51 mmol, 0.639 g, 77% yield | CN(S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O)C | C10H10N2O4S
